US07939569B1
A solution of 2,4,5-trifluoro-4′-(3-nitro-benzyloxy)-biphenyl (150 mg, 0.418 mmol) and 10% Pd/C (40 mg) in EtOAc (2 mL), EtOH (10 mL) and 6N HCl (100 uL) was hydrogenated at 50 psi for 1.25 hrs. The reaction mixture was filtered through Celite and evaporated to dryness to give 3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenylamine hydrochloride. LC-MS (ES) calculated for C19H14F3NO, 329.32; found m/z 330 [M+H]+.

reactant | 2,4,5-trifluoro-4′-(3-nitro-benzyloxy)-biphenyl | 0.418 mmol, 150 mg | FC1=C(C=C(C(=C1)F)F)C1=CC=C(C=C1)OCC1=CC(=CC=C1)[N+](=O)[O-] | C19H12F3NO3
reactant | HCl | 6N, 100 uL | Cl | ClH
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenylamine hydrochloride | Cl.FC1=C(C=C(C(=C1)F)F)C1=CC=C(C=C1)OCC=1C=C(C=CC1)N | InChI=1S/C19H14F3NO.ClH/c20-17-10-19(22)18(21)9-16(17)13-4-6-15(7-5-13)24-11-12-2-1-3-14(23)8-12;/h1-10H,11,23H2;1H
